US08541421B2
Ethyl 2-isothiocyanato-4,5-dimethylthiophene-3-carboxylate
To a mixture of thiophosgene (5.10 mL, 7.64 mmol) and calcium carbonate (1.05 g, 10.54 mmol) in CHCl3/H2O (½ by volume, 6 mL) was added dropwise a solution of ethyl 2-amino-4,5-dimethylthiophene-3-carboxylate (1.05 g, 5.27 mmol) in CHCl3 (7 mL) at 0° C. over a period of 1 h. The reaction mixture was the stirred for 2.5 h at 0° C., washed with water (3×). The organic layer was dried over MgSO4, filtered and concentrated to give the title compound (1.21 g, 100%). 1H NMR (400 MHz, DMSO-d6) δ1.32 (t, 3H, J=7.1 Hz), 2.19 (s, 3H), 2.30 (s, 3H), 4.28 (q, 2H, J=7.1 Hz).

reactant | thiophosgene | 7.64 mmol, 5.10 mL | C(=S)(Cl)Cl | CCl2S
reactant | calcium carbonate | 10.54 mmol, 1.05 g | C([O-])([O-])=O.[Ca+2]
reactant | ethyl 2-amino-4,5-dimethylthiophene-3-carboxylate | 5.27 mmol, 1.05 g | NC=1SC(=C(C1C(=O)OCC)C)C | C9H13NO2S
solvent | CHCl3 H2O | 6 mL | C(Cl)(Cl)Cl.O
solvent | CHCl3 | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-isothiocyanato-4,5-dimethylthiophene-3-carboxylate | 1.21 g, 100% | N(=C=S)C=1SC(=C(C1C(=O)OCC)C)C | C10H11NO2S2
